US06420367B1
To a solution of 2-(2-aminophenyl)-5-(methylthio)oxadiazole (1.8 g) in methoxyethanol was added 4.4 g of hydrazine hydrate and the mixture was stirred for 30 h at 120° C. The solvent and excess hydrazine were removed and the residue was purified by column chromatography on silica gel to give 613 mg of 2-(2-aminophenyl)-5-hydrazinooxadiazole.

reactant | 2-(2-aminophenyl)-5-(methylthio)oxadiazole | 1.8 g | NC1=C(C=CC=C1)N1OC(=CN1)SC | C9H11N3OS
reactant | hydrazine hydrate | 4.4 g | O.NN
solvent | methoxyethanol | COC(C)O | C3H8O2
product | 2-(2-aminophenyl)-5-hydrazinooxadiazole | 613 mg | NC1=C(C=CC=C1)N1OC(=CN1)NN | C8H11N5O
